* D:\GitHub\Repositorios\IC_VIDA\Simulations\voltage_and_current_sensor\sensor.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 36
R2 N003 0 10k
R1 N001 N003 11k3
R3 N003 N002 1k
R5 0 N004 1k
C1 N003 0 100n
R6 N004 A0 1k
D§Z1 0 A0 UMZ5_1N
R4 0 N002 1k
X§U3 N002 N004 5V 0 A0 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V§Regulador-5V 5V 0 5
R§Shunt1 N005 0 0.00025
R11 N006 N005 10k
R12 N007 0 10k
R13 A1 N007 660k
R14 N006 0 660k
C2 0 A1 10µ
D2 0 A1 UMZ5_1N
X§U1 N006 N007 5V 0 A1 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
I1 N001 N005 300
.model D D
.lib C:\Users\Alexandre\AppData\Local\LTspice\lib\cmp\standard.dio
* Medidor de Tensão na bateria
* Medidor de corrente total
.tran 1m
* Shunt - 300A/75mV
* C1 - Cerâmico (104)
* C2 - Eletrolítico (50V)
* Resistores - 1/4W
* AmpOps - OPA350
* Diodos Zenner - 1N4733 (5,1V)
* Library below included based on ModelFile attribute of instance X§U3, X§U1 (C:\Users\Alexandre\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp.asy)
.lib UniversalOpAmp1.lib
.backanno
.end
